US07071340B2
24 ml of trifluoroacetic acid are added at 0° C. to a mixture of 4.56 g (30 mmol) of methyl 1-hydroxybenzoate and 8.64 g (60 mmol) of hexamethylenetetramine. The solution is brought to reflux and is stirred for 2 hours. After cooling, the solution is diluted with water to 50 ml. The solution is stirred overnight at ambient temperature and is then extracted with ether. The combined organic phases are then washed with water and then with brine. After drying over sodium sulfate and concentrating under vacuum, the crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 10/90) to give 2 g (37%) of methyl 3-formyl-4-hydroxybenzoate in the form of a white solid; 1H NMR (300 MHz, CDCl3): 11.30 (broad s, 1H), 9.90 (s, 1H), 8.26 (d, J=2.1 Hz, 1H), 8.12 (dd, J=2.1 Hz and 8.7 Hz, 1H), 6.96 (d, J=8.7 Hz, 1H), 3.88 (s, 3H).

reactant | trifluoroacetic acid | 24 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 1-hydroxybenzoate | 30 mmol, 4.56 g | OC1(C(=O)OC)CC=CC=C1 | C8H10O3
reactant | hexamethylenetetramine | 60 mmol, 8.64 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
product | methyl 3-formyl-4-hydroxybenzoate | 2 g, 37% | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
